US09169261B2
To a solution of ethyl 1-(3,4-difluorophenyl)-1H-1,2,4-triazole-3-carboxylate (0.30 g, 1.2 mmol, 1 eq) in 5 mL of EtOH/H2O (1.5:1) was added NaOH (0.095 g, 2.4 mmol, 2 eq). The reaction mixture was heated at 50° C. for 1 h then quenched with 0.20 mL of cone. HCl. The contents were filtered and washed with EtOAc then with MeOH and the MeOH filtrate was dried with Na2SO4 and concentrated in vacuo to afford 1-(3,4-difluorophenyl)-1H-1,2,4-triazole-3-carboxylic acid (0.22 g, 0.98 mmol, 84%).

reactant | ethyl 1-(3,4-difluorophenyl)-1H-1,2,4-triazole-3-carboxylate | 1.2 mmol, 0.30 g, 1 eq | FC=1C=C(C=CC1F)N1N=C(N=C1)C(=O)OCC | C11H9F2N3O2
reactant | NaOH | 2.4 mmol, 0.095 g, 2 eq | [OH-].[Na+]
solvent | EtOH H2O | 5 mL | CCO.O
product | 1-(3,4-difluorophenyl)-1H-1,2,4-triazole-3-carboxylic acid | 0.98 mmol, 0.22 g, 84% | FC=1C=C(C=CC1F)N1N=C(N=C1)C(=O)O | C9H5F2N3O2
